US04866086
To a solution of 2-(2-bromopropionyl)-5-trifluoromethyl-pyridine (5.8 g.) in acetonitrile (65 ml.) was added sodium 1,2,4-triazole (2.0 g.) and the solution was stirred for 90 minutes. The acetonitrile was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water, dried over magnesium sulphate and concentrated to dryness under reduced pressure to give a yellow gum. Chromatography on silica, using petroleum ether (bp (60°-80°): ethyl acetate 60/40 v/v as eluent, gave 2-[2-(1,2,4-triazol-1-yl)propionyl]-5-trifluoromethylpyridine as a pale yellow oil. Nmr in deuteriochloroform: δ1.88 (3H, d); 6.62 (1H, q); 7.9 (1H, s); 8.14 (2H, m); 8.36 (1H, s); 8.94 (1H, d).

reactant | 2-(2-bromopropionyl)-5-trifluoromethyl-pyridine | 5.8 g | BrC(C(=O)C1=NC=C(C=C1)C(F)(F)F)C | C9H7BrF3NO
reactant | sodium 1,2,4-triazole | 2.0 g | N1N=CN=C1.[Na]
solvent | acetonitrile | 65 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(1,2,4-triazol-1-yl)propionyl]-5-trifluoromethylpyridine | N1(N=CN=C1)C(C(=O)C1=NC=C(C=C1)C(F)(F)F)C | C11H9F3N4O
